US06930120B2
(S)-2-Methyl-3-{4-[2-(5-methyl-2-thiophen-2-yl-oxazol-4-yl)-ethoxy]-phenyl}-2-(4-methoxyphenoxy)-propionic acid ethyl ester
The title compound was prepared from (S)-3-(4-hydroxyphenyl)-2-methyl-2-(4-methoxyphenoxy)-propionic acid ethyl ester and toluene-4-sulfonic acid 2-(5-methyl-2-thiophen-2-yl-oxazol-4-yl)-ethyl ester to produce a colorless oil (32%). 1H NMR (300 MHz, CDCl3): δ 7.57 (d, 1H, J=3.5), 7.36 (d, 1H, J=5.1), 7.15 (d, 2H, J=8.6), 7.07 (dd, 1H, J=5.1, 3.5), 6.81 (d, 2H, J=6.6), 6.78 (d, 2H, J=8.6), 6.71 (d, 2H, J=6.6), 4.21 (q, 2H, J=7.2), 4.20 (t, 2H, J=6.4), 3.74 (s, 3H), 3.21 (d, 1H, J=13.7), 3.08 (d, 1H, J=13.7), 2.95 (t, 2H, J=6.4), 2.35 (s, 3H), 1.28 (s, 3H), 1.25 (t, 3H, J=7.2). MS [EI+] 522 (M+H)+.

reactant | (S)-3-(4-hydroxyphenyl)-2-methyl-2-(4-methoxyphenoxy)-propionic acid ethyl ester | C(C)OC([C@](CC1=CC=C(C=C1)O)(OC1=CC=C(C=C1)OC)C)=O | C19H22O5
reactant | toluene-4-sulfonic acid 2-(5-methyl-2-thiophen-2-yl-oxazol-4-yl)-ethyl ester | CC1=C(N=C(O1)C=1SC=CC1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C17H17NO4S2
product | (S)-2-Methyl-3-{4-[2-(5-methyl-2-thiophen-2-yl-oxazol-4-yl)-ethoxy]-phenyl}-2-(4-methoxyphenoxy)-propionic acid ethyl ester | C(C)OC([C@](CC1=CC=C(C=C1)OCCC=1N=C(OC1C)C=1SC=CC1)(OC1=CC=C(C=C1)OC)C)=O | C29H31NO6S
